US09169254B2
1,8-Diazabicyclo[5.4.0]undec-7-ene (1.08 mL, 7.26 mmol) was added to a solution of (diethoxy-phosphoryl)-acetic acid ethyl ester (1.57 mL, 7.87 mmol) and lithium chloride (359 mg, 8.47 mmol) in acetonitrile (60.5 mL) at 0° C., and the mixture was stirred at 0° C. for 10 minutes. A solution of 7,7,8,8,8-pentafluoro-octanal (1.32 g, 6.05 mmol) in acetonitrile (20.5 mL) was added dropwise to the reaction solution at 0° C., and the mixture was stirred for 10 minutes. Thereafter, the reaction mixture was stirred at room temperature for one hour and diluted with methyl tert-butyl ether (300 mL). The organic layer was sequentially washed with 2 N hydrochloric acid (50 mL), H2O (50 mL) and saturated brine (50 mL), dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give (E)-9,9,10,10,10-pentafluoro-dec-2-enoic acid ethyl ester (purity 80%) as a colorless oily substance (49.7 mg, 47%).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 7.26 mmol, 1.08 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (diethoxy-phosphoryl)-acetic acid ethyl ester | 7.87 mmol, 1.57 mL | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | lithium chloride | 8.47 mmol, 359 mg | [Cl-].[Li+]
reactant | 7,7,8,8,8-pentafluoro-octanal | 6.05 mmol, 1.32 g | FC(CCCCCC=O)(C(F)(F)F)F | C8H11F5O
solvent | acetonitrile | 60.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20.5 mL | C(C)#N | C2H3N
solvent | methyl tert-butyl ether | 300 mL | C(C)(C)(C)OC | C5H12O
product | (E)-9,9,10,10,10-pentafluoro-dec-2-enoic acid ethyl ester | C(C)OC(\C=C\CCCCCC(C(F)(F)F)(F)F)=O | C12H17F5O2
